2188-04-13 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Female First Name (un) 231**]: - 1lt, exudative on prelim results
   ppd placed, need to be read on monday
   TTE- minimal pericardial fluid (prelim)
   HR in 150s, a flutter, metoprolol,500cc ivf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-4-13**] 01:00 AM
   Morphine Sulfate - [**2188-4-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 119/49(66) {92/41(50) - 129/69(82)} mmHg
   RR: 16 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 75.6 kg
                  Total In:
                                                                  1,040 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,204 mL
   Balance:
                                                                 -1,064 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVD is up to angle of jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   32.2 %
   8.1 K/uL
         [image002.jpg]
                             [**2188-4-12**]  01:05 AM
                             [**2188-4-12**]  03:04 AM
                             [**2188-4-13**]  04:21 AM
   WBC
   8.1
   Hct
   35.8
   32.2
   Plt
   212
   Cr
   0.7
   0.9
   Glucose
   147
   103
   Other labs: PT / PTT / INR:14.8/24.2/1.3, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   ECHO
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). Right ventricular chamber size and free wall motion
   are normal. There is a trivial/physiologic pericardial effusion.
   IMPRESSION: Tiny residual pericardial effusion
   Assessment and Plan
   55yo F with h/o recurrent metastatic uterine CA admitted with
   pericardial effusion and tamponade s/p pericardial drain.
   # Pericardial Effusion: Exudative, most likely malignant pericardial
   effusion given h/o cancer hx. p 500 cc serosang fluids. No additional
   drainage overnight. Repeat echo with minimal effusion.
   - NSAIDs for pain control.
   - Pull drain today.
   - F/u fluid cytology, culture
   #Tachycardia: A Flutter, likely ppt by hypovolemia. Improved with
   metoprolol and IVF.
   - Monitor on tele once pericardial drain pulled
   - Start metoprolol 12.5mg [**Hospital1 **]
   # Pleural Effusion: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] (1 lt out from left); exudative nature.
   Sats stable overnight. No PNTX.
   - Thoracentesis of right side today.
   - F/u cytology, culture
   # Uterine CA: Onc agrees with plan, o/p palliative chemo
   # PUMP: normal EF (55%) with trival effusion
   # CORONARIES: No h/o coronary disease
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-4-12**] 03:42 AM
   Prophylaxis:
   DVT:  heparin sc tid
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   Full Code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU rounds this
   morning.  I agree with Dr. [**Last Name (STitle) 3146**]
s H+P, A+P.  Improved s/p left
   thoracentesis yesterday.  Exam and CXR consistent with persistent right
   pleural effusion.  RA sats in low 90
s.  Tachycardia with minimal
   exertion.  We plan right sided thoracentesis today.  Will remove
   pericardial drain.  Rest of plan as above.  ICU care secondary to
   tamponade, pericardial drain.  Total time on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2188-4-13**] 10:47 ------